US09056859B2
To a flask charged with Boc-piperazine (130 mg, 0.70 mmol) and 7-bromo-1-benzofuran-3-carbaldehyde (141 mg, 0.63 mmol) was added NaBH(OAc)3 (761 mg, 2.80 mmol). The mixture was stirred at room temperture for 12 hours. Then the reaction was diluted with EtOAc (50 mL), washed with brine (15 mL), dried over Na2SO4 and concentrated. The residue was purified with prep-TLC to obtain the pure product tert-butyl 4-[(7-bromo-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate.

reactant | Boc-piperazine | 0.70 mmol, 130 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 7-bromo-1-benzofuran-3-carbaldehyde | 0.63 mmol, 141 mg | BrC1=CC=CC=2C(=COC21)C=O | C9H5BrO2
reactant | NaBH(OAc)3 | 2.80 mmol, 761 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | tert-butyl 4-[(7-bromo-1-benzofuran-3-yl)methyl]piperazine-1-carboxylate | BrC1=CC=CC=2C(=COC21)CN2CCN(CC2)C(=O)OC(C)(C)C | C18H23BrN2O3
